US08937150B2
ethyl 2-(methoxycarbonylamino)-3-methylbut-2-enoate
A benzene solution (90 mL) of ethyl-3-methyl-2-oxobutanoate (4.03 g, 28.0 mmol), methyl carbamate (2.098 g, 28.0 mmol) and pyridine 4-methylbenzenesulfonate (0.70 g, 2.80 mmol) was heated to reflux in a round bottom flask equipped with a Dean-Stark trap and reflux condenser. After 44 hours of heating the mixture was cooled and then partitioned between ethyl acetate (50 mL) and brine (50 mL). The organic phase was washed with brine (2×50 mL) then dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography on silica gel (ethyl acetate-hexanes) to provide the title compound as an off white crystalline solid (1.487 g, 26%).

reactant | ethyl-3-methyl-2-oxobutanoate | 28.0 mmol, 4.03 g | C(C)OC(C(C(C)C)=O)=O | C7H12O3
reactant | methyl carbamate | 28.0 mmol, 2.098 g | C(N)(OC)=O | C2H5NO2
reactant | pyridine 4-methylbenzenesulfonate | 2.80 mmol, 0.70 g | CC1=CC=C(C=C1)S(=O)(=O)O.N1=CC=CC=C1
solvent | benzene | 90 mL | C1=CC=CC=C1 | C6H6
product | ethyl 2-(methoxycarbonylamino)-3-methylbut-2-enoate | COC(=O)NC(C(=O)OCC)=C(C)C | C9H15NO4
